US07101891B2
9-Chloro-3-methyl-5-[1-(3-phenyl-propyl)-piperidin-3-yl]-5H-isoxazolo[4,3-c]quinolin-4-one
To a suspension of 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide (50 mg, 0.11 mmol) in methanol (3 mL) add approximately 100 mg of finely ground 3 Å sieves and stir the mixture for 30 minutes at room temperature. To the suspension add sodium cyanoborohydride (21 mg, 0.34 mmol) and stir the mixture at room temperature under nitrogen overnight. Concentrate the solution and dissolve in 20% isopropanol/chloroform, wash with saturated aqueous sodium bicarbonate solution, brine, dry over magnesium sulfate and concentrate. Purify by flash chromatography on silica gel (eluting with 0–1% methanol/chloroform) to give 23.9 mg of the title compound as a yellow foam, 49% yield. 1H NMR: consistent with structure. MS (ion spray) 436 (M+).

reactant | 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide | 0.11 mmol, 50 mg | I.ClC=1C=2C=3C(C(N(C2C=CC1)C1CNCCC1)=O)=C(ON3)C
reactant | sodium cyanoborohydride | 0.34 mmol, 21 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 9-Chloro-3-methyl-5-[1-(3-phenyl-propyl)-piperidin-3-yl]-5H-isoxazolo[4,3-c]quinolin-4-one | 23.9 mg, 49% yield | ClC=1C=2C=3C(C(N(C2C=CC1)C1CN(CCC1)CCCC1=CC=CC=C1)=O)=C(ON3)C | C25H26ClN3O2
